US09278915B2
Intermediate 29: Methyl (1R,2R)-2-(4-aminophenyl)cyclopropanecarboxylate
To a 1000 mL parr hydrogenater flask with methanol (70 mL) and ethyl acetate (70 mL), was added methyl (1R,2R)-2-(4-nitrophenyl)cyclo propane carboxylate (14 g, 63.3 mmol) and 10% Pd/C (2 g) under N2 atmosphere. The RM was hydrogenated at 40 psi for 5 h. RM was diluted with ethyl acetate (100 mL), filtered through celite bed to remove Pd/C and evaporated to dryness under reduced pressure. The crude was purified by flash column chromatography on silica gel (230/400 mesh), to give the product (4 g, yield: 33.1%). MS (ESI, 120 eV): m/z=192.1 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 6.83-6.86 (d, 2H), 6.58-6.61 (d, 2H), 3.63 (s, 3H), 2.36-2.39 (m, 1H), 1.69-1.75 (m, 1H), 1.42-1.49 (m, 1H), 1.14-1.20 (m, 1H).

reactant | methanol | 70 mL | CO | CH4O
reactant | methyl (1R,2R)-2-(4-nitrophenyl)cyclo propane carboxylate | 63.3 mmol, 14 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OC | C11H11NO4
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 2 g | [Pd] | Pd
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
product | Methyl (1R,2R)-2-(4-aminophenyl)cyclopropanecarboxylate | 4 g, yield: 33.1% | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OC | C11H13NO2
